US09120822B2
3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid (31 mg, 0.14 mmol, 1.0 eq) is added at room temperature to a stirred solution of 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-piperidin-4-ylamine (50 mg, 0.14 mmol, 1.0 eq) in N,N-dimethylformamide (3 mL), followed by 1-hydroxybenzotriazole (21 mg, 0.15 mmol, 1.1 eq), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (31 mg, 0.16 mmol, 1.15 eq) and N,N-diisopropylethylamine (53 μL, 0.31 mmol, 2.25 eq). After 15 hours stirring at room temperature, solvent is evaporated and the residue is extracted with dichloromethane (3×10 mL) and water (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a crude product that is purified by preparative HPLC to afford 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-piperidin-4-yl]-amide as an off-white lyophilizated powder (24 mg, 33% yield).

reactant | 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | 0.14 mmol, 31 mg, 1.0 eq | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
reactant | 1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-piperidin-4-ylamine | 0.14 mmol, 50 mg, 1.0 eq | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1CCC(CC1)N | C18H23N3O2
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 21 mg, 1.1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.16 mmol, 31 mg, 1.15 eq | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.31 mmol, 53 μL, 2.25 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-yl)-piperidin-4-yl]-amide | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1CCC(CC1)NC(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C27H28N4O4S
